US08912188B2
To a solution of methyl 3-(tert-butylamino)-2-(4-fluorophenyl)quinoxaline-6-carboxylate (120 mg, 0.34 mmol) in THF (20 mL) and water (2 mL) was added sodium hydroxide (54.39 mg, 1.36 mmol) with stirring overnight at room temperature. The reaction mixture was concentrated in vacuo, dissolved in water (30 mL), adjusted to pH 4 with HCl (3N) to give the precipitate, which was collected by filtration to afford 3-(tert-butylamino)-2-(4-fluorophenyl)quinoxaline-6-carboxylic acid as a light yellow solid (80 mg, 66%).

reactant | methyl 3-(tert-butylamino)-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.34 mmol, 120 mg | C(C)(C)(C)NC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C20H20FN3O2
reactant | sodium hydroxide | 1.36 mmol, 54.39 mg | [OH-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | 3-(tert-butylamino)-2-(4-fluorophenyl)quinoxaline-6-carboxylic acid | 80 mg, 66% | C(C)(C)(C)NC=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=C(C=C1)F | C19H18FN3O2
